US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-4-(tert-butoxycarbonyl)aminoaniline
N-(tert-Butoxycarbonyl)-p-phenylenediamine (0.209 g, 1.002 mmol), triethylamine (0.101 g, 1.002 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.279 g, 1.002 mmol) were added to a methylene chloride solution (100 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (0.250 g, 0.668 mmol) and the resulting solution was stirred at room temperature for 6 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (chloroform:methanol=10:1) and then recrystallized from ethanol to obtain the titled compound (0.180 g, 0.319 mmol, 48%).

reactant | N-(tert-Butoxycarbonyl)-p-phenylenediamine | 1.002 mmol, 0.209 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)N | C11H16N2O2
reactant | triethylamine | 1.002 mmol, 0.101 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 1.002 mmol, 0.279 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 0.668 mmol, 0.250 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC(C)=O)C)=O | C19H18O8
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-4-(tert-butoxycarbonyl)aminoaniline | 0.319 mmol, 0.180 g, 48% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)NC(=O)OC(C)(C)C)C1)OC(C)=O)C)=O | C30H32N2O9
